US06489344B1
1 mmol of tert-butyl 4-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]piperazinecarboxylate was heated to 60° C. 3M HCl in MeOH for one hour and concentrated in vacuo to obtain {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[4-(2,4-dichlorophenyl)-5-piperazinylpyrimidin-2-yl]amine.

reactant | tert-butyl 4-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]piperazinecarboxylate | 1 mmol | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C26H31Cl2N9O4
reactant | HCl | 3M | Cl | ClH
solvent | MeOH | CO | CH4O
product | {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[4-(2,4-dichlorophenyl)-5-piperazinylpyrimidin-2-yl]amine | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)N1CCNCC1)[N+](=O)[O-] | C21H23Cl2N9O2
